US04759791
66.5 ml of a 10.78% solution of 3,4-dihydro-3-methyl-2,2-dioxo-1,2-benzoxathiin-8-ylsulfonyl isocyanate in dioxane is added dropwise over 5 minutes at room temperature to a mixture of 3.72 g of 2-amino-4-cyclopropyl-6-methylpyrimidine in 100 ml of absolute dioxane. The mixture is stirred for a further 18 hours and then concentrated by evaporation. The residue is crystallised by trituration with a 1:2 mixture of ethyl acetate and petroleum, affording 11.2 g of N-(3,4-dihydro-3-methyl-2,2-dioxo-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-cyclopropyl-6-methylpyrimidin-2-yl)urea with a melting point of 216°-217° C.

reactant | 3,4-dihydro-3-methyl-2,2-dioxo-1,2-benzoxathiin-8-ylsulfonyl isocyanate | CC1S(OC2=C(C1)C=CC=C2S(=O)(=O)N=C=O)(=O)=O | C10H9NO6S2
reactant | 2-amino-4-cyclopropyl-6-methylpyrimidine | 3.72 g | NC1=NC(=CC(=N1)C1CC1)C | C8H11N3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-(3,4-dihydro-3-methyl-2,2-dioxo-1,2-benzoxathiin-8-ylsulfonyl)-N'-(4-cyclopropyl-6-methylpyrimidin-2-yl)urea | 11.2 g | CC1S(OC2=C(C1)C=CC=C2S(=O)(=O)NC(=O)NC2=NC(=CC(=N2)C2CC2)C)(=O)=O | C18H20N4O6S2
